US07884124B2
A solution of ethyl 3-vinyl-4H-furo[3,2-b]pyrrole-5-carboxylate (105 mg, 0.51 mmol) in EtOAc (8 mL) in a 40-mL scintillation vial was treated with 10% Pd/C (˜15 mg) and a balloon of H2. The system was evacuated and refilled three times with H2 before hydrogenating at rt for 6 h. The catalyst was removed by filtration over Celite® and the filtrate was concentrated. The crude product was purified by flash chromatography (0-10% EtOAc/heptane) to give ethyl 3-ethyl-4H-furo[3,2-b]pyrrole-5-carboxylate (96 mg, 91%). 1H NMR (400 MHz, CDCl3) δ ppm 1.30 (t, J=7.54 Hz, 3H), 1.36-1.42 (m, 3H), 2.57-2.64 (m, 2H), 4.33-4.40 (m, 2H), 6.76 (d, J=1.66 Hz, 1H), 7.31 (t, J=1.12 Hz, 1H); LCMS-MS (ESI+) 207.83 (M+H).

reactant | ethyl 3-vinyl-4H-furo[3,2-b]pyrrole-5-carboxylate | 0.51 mmol, 105 mg | C(=C)C1=COC2=C1NC(=C2)C(=O)OCC | C11H11NO3
solvent | EtOAc | 8 mL | CCOC(=O)C | C4H8O2
catalyst | Pd/C | ˜15 mg | [Pd] | Pd
product | ethyl 3-ethyl-4H-furo[3,2-b]pyrrole-5-carboxylate | 96 mg, 91% | C(C)C1=COC2=C1NC(=C2)C(=O)OCC | C11H13NO3
